US07119207B2
(2S,3S)-6-Methoxy-1-methyl-7-{[1-(5-methyl-3H-imidazol-4-ylmethyl)-2-phenyl-piperidin-3-ylamino]-methyl}-3,4-dihydro-1H-quinolin-2-one
To 6-Methoxy-1-methyl-7-[(2S,3S)-(2-phenyl-piperidin-3-ylamino)-methyl]-3,4-dihydro-1H-quinolin-2-one (100 mg, 0.26 mmol), 4-methyl-5-imidazolecarboxaldehyde (116 mg, 1.06 mmol), and 5 drops acetic acid in 2 mL of methanol at room temperature was added 1.58 mL (1.58 mmol) of 1.0 M sodium cyanoborohydride in THF. The resultant mixture was stirred for 1 hour at room temperature and then at 50° C. for 3 days. The reaction was then diluted with methylene chloride and washed 1× with sat'd. NaHCO3, dried over MgSO4, filtered, and concentrated. Silica gel chroatography (9:1 ethyl acetate/methanol) gave 83 mg (66%) of the title compound, a white foam. Rf=0.05 (9:1 ethyl acetate/methanol). MS (M+H)+=474.2; 1H NMR (400 MHz, CDCl3): δ 1.35–1.45 (m, 2H), 1.85–1.95 (bd, 1H), 1.99 (s, 3H), 1.99–2.15 (m, 2H), 2.45–2.55 (t, J=7.4 Hz, 2H), 2.62–2.65 (bs, 1H), 2.70–2.80 (t, J=7.4 Hz, 2H), 2.90–2.95 (d, J=13.9 Hz, 1H), 3.00–3.05 (d, J=10.7 Hz, 1H), 3.10 (s, 3H), 3.35–3.40 (m, 2H), 3.47 (s, 3H), 3.60–3.65 (d, J=14.3 Hz, 2H), 6.46 (s, 1H), 6.60 (s, 1H), 7.15–7.30 (m, 3H), 7.35–7.45 (m, 2H); 13C NMR (100 MHz, CDCl3): δ 11.4, 20.1, 25.5, 27.4, 29.6, 31.8, 45.3, 50.3, 53.7, 55.5, 56.2, 71.8, 109.8, 116.1, 125.2, 127.1, 128.2, 128.8, 133.2, 133.4, 141.2, 152.9, 170.0. The dihydrochloride salt was prepared by the addition of 2 M HCl in ether to a solution of the product in ethyl acetate. Concentration gave a white solid (Mp=225–229° C.).

reactant | 6-Methoxy-1-methyl-7-[(2S,3S)-(2-phenyl-piperidin-3-ylamino)-methyl]-3,4-dihydro-1H-quinolin-2-one | 0.26 mmol, 100 mg | COC=1C=C2CCC(N(C2=CC1CN[C@@H]1[C@@H](NCCC1)C1=CC=CC=C1)C)=O | C23H29N3O2
reactant | 4-methyl-5-imidazolecarboxaldehyde | 1.06 mmol, 116 mg | CC=1N=CNC1C=O | C5H6N2O
reactant | sodium cyanoborohydride | 1.58 mmol, 1.0 M, 1.58 mL | C(#N)[BH3-].[Na+]
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
solvent | methanol | 2 mL | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (2S,3S)-6-Methoxy-1-methyl-7-{[1-(5-methyl-3H-imidazol-4-ylmethyl)-2-phenyl-piperidin-3-ylamino]-methyl}-3,4-dihydro-1H-quinolin-2-one | 83 mg, 66% | COC=1C=C2CCC(N(C2=CC1CN[C@@H]1[C@@H](N(CCC1)CC=1NC=NC1C)C1=CC=CC=C1)C)=O | C28H35N5O2
